US05885986
A solution of 10 g (0.032 mol) of 8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid prop-2-ynylamide in 200 ml of acetic acid was treated with 10.8 g (0.048 mol) of N-iodosuccinimide while gassing with argon. After stirring at room temperature for 90 hrs. the dark suspension obtained was completely freed from the solvents and dried azeotropically several times with toluene. The dark residue was dissolved in 200 ml of THF, treated with 23 ml (0.278 mol) of propylamine and stirred at room temperature for 5 hrs. The suspension obtained was completely freed from the solvents, the residue was partitioned between ethyl acetate and 1N aqueous hydrochloric acid and extracted. The aqueous-acidic phase was made basic and extracted with ethyl acetate. The organic phase was concentrated and the orange crystalline product was chromatographed twice; firstly over basic Alox (grade III) with ethyl acetate/methanol 4:1 as the eluent, then over silica gel with dichloromethane/methanol 9:1 as the eluent. There were obtained 1.17 g (10%) of 8-fluoro-5-methyl-3-(5-propylaminomethyl-oxazol-2-yl)-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as yellowish crystals; m.p. 134°-136°.

reactant | 8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid prop-2-ynylamide | 0.032 mol, 10 g | C(C#C)NC(=O)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C16H13FN4O2
reactant | N-iodosuccinimide | 0.048 mol, 10.8 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | propylamine | 0.278 mol, 23 ml | C(CC)N | C3H9N
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 8-fluoro-5-methyl-3-(5-propylaminomethyl-oxazol-2-yl)-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.17 g, 10% | FC=1C=CC2=C(C(N(CC=3N2C=NC3C=3OC(=CN3)CNCCC)C)=O)C1 | C19H20FN5O2
